US09102654B2
Alternate Synthetic Route to: 3-(3-chloro-4-amino-1H-pyrazol-1-yl)pyridine (5d)
In a 250 mL 3-neck round bottom flask was added 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine (5.00 g, 21.8 mmol), ethanol (80 mL), water (40 mL), and ammonium chloride (5.84 g, 109 mmol). The suspension was stirred under nitrogen stream for 5 minutes then iron powder (4.87 g, 87.2 mmol) added. The reaction mixture was heated to reflux (˜80° C.) and held there for 4 hours. After 4 hours a reaction aliquot taken showed by HPLC analysis the reaction had gone to full conversion. Ethyl acetate (120 mL) and Celite® (10 g) were added to the reaction mixture and let stir for 10 minutes. The black colored suspension was then filtered via a Celite® pad and the pad rinsed with ethyl acetate (80 mL). The reaction mixture was washed with saturated sodium bicarbonate (30 mL) and the organic layer was assayed. The assay gave (4.19 g, 99%) of product. The organic solvent was removed in vacuo to give a brown colored crude solid that was used without further purification.

reactant | 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine | 21.8 mmol, 5.00 g | ClC1=NN(C=C1[N+](=O)[O-])C=1C=NC=CC1 | C8H5ClN4O2
reactant | ethanol | 80 mL | C(C)O | C2H6O
reactant | water | 40 mL | O | H2O
reactant | ammonium chloride | 109 mmol, 5.84 g | [Cl-].[NH4+]
catalyst | iron | 87.2 mmol, 4.87 g | [Fe] | Fe
solvent | Ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-chloro-4-amino-1H-pyrazol-1-yl)pyridine | 4.19 g, 99% | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
